US04243672
A mixture of 5-cyclopropylmethyl-2-pyrrolylglyoxylic acid ethyl ester (6.63 g.) and sodium hydroxide (1.32 g.) was heated in water (40 ml.) as described in Example 20. The resulting solution was cooled to 5° and the solid was filtered off and crystallized from acetone to give 5-cyclopropylmethyl-2-pyrrolylglyoxylic acid sodium salt hydrate (3.3 g.), M.P. 228°-232°. Found: C, 51.50; H, 5.19; N, 5.91. C10H10NO3Na. H2O requires: C, 51.50; H, 5.19; N, 6.01%.

reactant | 5-cyclopropylmethyl-2-pyrrolylglyoxylic acid ethyl ester | 6.63 g | C(C)OC(C(=O)C=1NC(=CC1)CC1CC1)=O | C12H15NO3
reactant | sodium hydroxide | 1.32 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | 5-cyclopropylmethyl-2-pyrrolylglyoxylic acid sodium salt hydrate | 3.3 g | O.[Na+].C1(CC1)CC1=CC=C(N1)C(C(=O)[O-])=O | InChI=1S/C10H11NO3.Na.H2O/c12-9(10(13)14)8-4-3-7(11-8)5-6-1-2-6;;/h3-4,6,11H,1-2,5H2,(H,13,14);;1H2/q;+1;/p-1
